US06071903
Methyl 2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]acetate
To a solution of 4.2 g of methyl 2-[(4-methoxybenzenesulfonyl)-(2-nitrobenzyl)amino]acetate in 200 ml of ethanol-ethyl acetate (1:1) was added 0.42 g of 10% Pd on carbon (wet--50% H2O) and the mixture shaken in a Parr hydrogenator under 35 pounds per square inch of hydrogen for 4.5 hours at room temperature. The mixture was filtered through diatomaceous earth and the filtrate concentrated to dryness under vacuum to give 4.0 g of crystals. m.p. 100°-102° C.

reactant | methyl 2-[(4-methoxybenzenesulfonyl)-(2-nitrobenzyl)amino]acetate | 4.2 g | COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)OC)CC1=C(C=CC=C1)[N+](=O)[O-] | C17H18N2O7S
reactant | hydrogen | [H][H] | H2
solvent | ethanol ethyl acetate | 200 ml | C(C)O.C(C)(=O)OCC
catalyst | Pd on carbon | 0.42 g | [Pd] | Pd
product | Methyl 2-[(2-Aminobenzyl)-(4-methoxybenzenesulfonyl)amino]acetate | 4.0 g | NC1=C(CN(CC(=O)OC)S(=O)(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C17H20N2O5S
